US04555537
Preparation of 2,2,3,3-Tetramethyl-1,4-Diazaspiro[4.5]decane
2,3-Diamino-2,3-dimethylbutane dihydrochloride is neutralized with aqueous caustic soda and the diamine is recovered. The wet diamine (15.3 grams) is then heated with benzene (150 mls) to azeotrope off about 2.2 mls of water. The benzene, containing 13.1 grams (0.113 mole) of the diamine, is then treated with cyclohexanone (11.0 grams 0.112 mole) and p-toluenesulfonic acid (50 mgs) and the reaction mixture is refluxed for 40 hours in a flask fitted with a Dean-Stark water separator. The benzene is then removed by distillation and the reddish liquid residue is fractionally distilled. The main fraction, b.p 82°-84° C. at 1 mm pressure, has a nuclear magnetic resonance spectrum identical to that reported in the literature [Keana et al., J. Am. Chem. Soc. 100, pg. 934 (1978)]. On standing the liquid solidifies to a crystalline solid, m.p. 31°-32° C., which contains 9.95% water.

reactant | 2,3-Diamino-2,3-dimethylbutane dihydrochloride | Cl.Cl.NC(C)(C(C)(C)N)C
reactant | caustic soda | [OH-].[Na+]
reactant | cyclohexanone | 0.112 mole, 11.0 grams | C1(CCCCC1)=O | C6H10O
reactant | p-toluenesulfonic acid | 50 mgs | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | water | O | H2O
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 2,2,3,3-Tetramethyl-1,4-Diazaspiro[4.5]decane | CC1(NC2(NC1(C)C)CCCCC2)C | C12H24N2
